US07125876B2
A mixture of (2R)-3-(2-methylbenzothiazol-5-yloxy)-1-piperazinylpropan-2-ol (0.2 g, 0.65 mmol) and 2-chloro-N-(2-methylbenzothiazol-5-yl)acetamide (0.155 g, 0.65 mmol) in ethanol was allowed to stir at reflux for 24 hours. The solvent was removed under reduced pressure and the residue was purified using preparative thin layer chromatography, to afford 2-{4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}-N-(2-methylbenzothiazol-5-yl)acetamide.

reactant | (2R)-3-(2-methylbenzothiazol-5-yloxy)-1-piperazinylpropan-2-ol | 0.65 mmol, 0.2 g | CC=1SC2=C(N1)C=C(C=C2)OC[C@@H](CN2CCNCC2)O | C15H21N3O2S
reactant | 2-chloro-N-(2-methylbenzothiazol-5-yl)acetamide | 0.65 mmol, 0.155 g | ClCC(=O)NC=1C=CC2=C(N=C(S2)C)C1 | C10H9ClN2OS
solvent | ethanol | C(C)O | C2H6O
product | 2-{4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}-N-(2-methylbenzothiazol-5-yl)acetamide | O[C@H](CN1CCN(CC1)CC(=O)NC=1C=CC2=C(N=C(S2)C)C1)COC=1C=CC2=C(N=C(S2)C)C1 | C25H29N5O3S2
